US07186749B2
Step 2: {[6-(1,5-Diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetic acid.
In a similar manner as described in step 2 of Example 6, the title compound was prepared from methyl {[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetate (0.17 g, 0.39 mmol), prepar in the previous step, and 1N NaOH (0.59 mL, 0.59 mmol) in 5:5:1 THF:MeOH:water (55 mL) with the exception that this reaction required heating to 65° C. and was complete after 6 hours. The still warm reaction mixture was filtered and then allowed to cool to ambient temperature. The mixture was acidified with 1N HCl (2.5 mL) and the volatiles were removed under reduced pressure (without the addition of heat). The resulting slurry was diluted with water (25 mL) and the solids were isolated by filtration to give {[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetic acid as an off-white solid (0.148 g, 90%), mp 258–260° C. (dec). Elemental Analysis for C28H21NO3.0.23 H2O Calc'd: C, 79.39; H, 5.11; N, 3.31. Found: C, 78.84; H 5.03; N, 3.00.

reactant | methyl {[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetate | 0.39 mmol, 0.17 g | C1(=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OCC(=O)OC | C29H23NO3
reactant | prepar | C[C@@H]([C@@H](C1=CC=C(C=C1)O)O)NCCC2=CC=C(C=C2)O | C17H21NO3
reactant | NaOH | 0.59 mmol, 1N, 0.59 mL | [OH-].[Na+]
reactant | THF | C1CCOC1 | C4H8O
solvent | water | 55 mL | O | H2O
solvent | MeOH | CO | CH4O
product | {[6-(1,5-diphenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetic acid | 0.148 g, 90% | C1(=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OCC(=O)O | C28H21NO3
